US07320994B2
2-Tributylstannanylethynyl-pyridine
Dissolve 2-ethynylpyridine (7.14 g, 69.23 mmol) in THF (350 mL) and cool the solution to −10° C. (ice/methanol) under nitrogen. Add n-butyllithium (1.6 M in hexanes, 47.6 mL, 76.16 mmol) dropwise and stir the mixture. After 15 minutes, add tributyltin chloride (20.7 mL, 76.2 mL) dropwise. Warn the mixture to room temperature overnight. Quench the reaction with water, dilute with ether, and wash with saturated ammonium chloride, then brine. Dry over sodium sulfate, filter and concentrate. No further purification necessary to give the title compound: 1H NMR (CDCl3) δ 8.50-8.54 (m, 1H), 7.51-7.59 (m, 1H), 7.35-7.43 (m, 1H), 7.11-7.18 (m, 1H), 1.59-1.64 (m, 6H), 1.32-1.42 (m, 6H), 1.05-1.10 (m, 6H), 0.88-0.94 (m, 9H).

reactant | 2-ethynylpyridine | 69.23 mmol, 7.14 g | C(#C)C1=NC=CC=C1 | C7H5N
reactant | n-butyllithium | 76.16 mmol, 1.6 M, 47.6 mL | C(CCC)[Li]
reactant | tributyltin chloride | 20.7 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-Tributylstannanylethynyl-pyridine | C(CCC)[Sn](C#CC1=NC=CC=C1)(CCCC)CCCC | InChI=1S/C7H4N.3C4H9.Sn/c1-2-7-5-3-4-6-8-7;3*1-3-4-2;/h3-6H;3*1,3-4H2,2H3;
